US06562828B1
1-(Pyridin-4-yl)piperidine-4-carbamic Acid Benzyl Ester
To a suspension of 1-(pyridin-4-yl)piperidine-4-carboxylic acid (11.18 g) and triethylamine (11.3 ml) in dimethylformamide (110 ml) was added diphenylphosphoryl azide (12.9 ml) at room temperature, and the mixture was stirred at 80° C. for 30 min. Benzyl alcohol (6.17 ml) was added at the same temperature, and the mixture was stirred for 12 hours. After completion of the reaction, the solvent was evaporated and the obtained residue was purified by silica gel column chromatography (chloroform:methanol=99:1-95:5) and dried under reduced pressure to give the title compound (9.46 g).

reactant | 1-(pyridin-4-yl)piperidine-4-carboxylic acid | 11.18 g | N1=CC=C(C=C1)N1CCC(CC1)C(=O)O | C11H14N2O2
reactant | triethylamine | 11.3 ml | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 12.9 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | Benzyl alcohol | 6.17 ml | C(C1=CC=CC=C1)O | C7H8O
solvent | dimethylformamide | 110 ml | CN(C=O)C | C3H7NO
product | 1-(Pyridin-4-yl)piperidine-4-carbamic Acid Benzyl Ester | 9.46 g | C(C1=CC=CC=C1)OC(NC1CCN(CC1)C1=CC=NC=C1)=O | C18H21N3O2
